US06992067B2
3-{5-(tert-Butyldimethylsilanyloxy)-5-(4-fluorophenyl)-2-[(4-fluorophenylamino)-(4-hydroxyphenyl)methyl]pentanoyl}-4-phenyloxazolidin-2-one (49)
10 g of 3-[5-(tert-butyldimethylsilanyloxy)-5-(4-fluorophenyl)pentanoyl]-4-phenyloxazolidin-2-one are dissolved in 80 ml of absolute dichlormethane. 9.12 g of 4-[(4-fluorophenylimino)methyl]phenol and 19.6 ml of ethyldiisopropylamine are added, and the solution is then cooled to −10° C. 6.7 ml of trimethylsilyl chloride are then added dropwise, the temperature of the reaction mixture being maintained at below −5° C. The reaction solution is stirred at −10° C. for half an hour and then cooled to −30° C., and 2.7 ml of titanium tetrachloride are added dropwise, the temperature being maintained between −30° C. and −15° C. This gives a black reaction solution which is stirred at −20° C. for another 3 h and then allowed to warm to 0° C. In the stated order, in intervals of 10 minutes, 6 ml of glacial acetic acid, 60 ml of 7% strength aqueous tartaric acid solution and finally 100 ml of 20% strength aqueous sodium hydrogensulfite solution are then added with stirring. The mixture is then extracted three times with dichloromethane and the organic phase is washed once with saturated sodium chloride solution and dried over sodium sulfate. The solvent is removed using a rotary evaporator and the residue is purified by column chromatography (SiO2; ethyl acetate/heptane 1:4). The product is obtained from diethyl ether/pentane as white crystals. C39H44F2N2O5Si (686) MS (ESI): M+−241

reactant | 3-[5-(tert-butyldimethylsilanyloxy)-5-(4-fluorophenyl)pentanoyl]-4-phenyloxazolidin-2-one | 10 g | [Si](C)(C)(C(C)(C)C)OC(CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C26H34FNO4Si
reactant | 4-[(4-fluorophenylimino)methyl]phenol | 9.12 g | FC1=CC=C(C=C1)N=CC1=CC=C(C=C1)O | C13H10FNO
reactant | ethyldiisopropylamine | 19.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trimethylsilyl chloride | 6.7 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | dichlormethane | 80 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 2.7 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-{5-(tert-Butyldimethylsilanyloxy)-5-(4-fluorophenyl)-2-[(4-fluorophenylamino)-(4-hydroxyphenyl)methyl]pentanoyl}-4-phenyloxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC(CCC(C(=O)N1C(OCC1C1=CC=CC=C1)=O)C(C1=CC=C(C=C1)O)NC1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C39H44F2N2O5Si
